US07550478B2
Step 2: 1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride
Benzyl (1,4-dioxan-2-ylmethyl)methylcarbamate (Enantiomer A, 2.9 g, 10.9 mmol) was dissolved in 50 mL dry ethanol. 10% (w/w) palladium on carbon (0.29 g) and 1.0 mL 10N HCl were added. The flask was sealed and flushed with hydrogen. Stirred solution under a hydrogen balloon. After 12 hours, the solution was filtered through celite and concentrated in vacuo to afford the title compound. 1H NMR (600 MHz, D6-DMSO) {dot over (δ)} 8.64 (s, 2H); 3.82-3.75 (m, 2H); 3.69 (d, 1H); 3.64 (d, 1H); 3.59 (m, 1H); 3.44 (m, 1H); 3.22 (t, 1H); 2.94-2.84 (m, 2H); 2.51 (s, 3H).

reactant | Benzyl (1,4-dioxan-2-ylmethyl)methylcarbamate | 10.9 mmol, 2.9 g | O1C(COCC1)CN(C(OCC1=CC=CC=C1)=O)C | C14H19NO4
reactant | HCl | 10N, 1.0 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.29 g | [Pd] | Pd
product | 1-(1,4-dioxan-2-yl)-N-methylmethanamine hydrochloride | Cl.O1C(COCC1)CNC | InChI=1S/C6H13NO2.ClH/c1-7-4-6-5-8-2-3-9-6;/h6-7H,2-5H2,1H3;1H
